US07135486B1
2-{[6-Amino-3,5-dicyano-4-(4-hydroxyphenyl)-2-pyridinyl]sulfanyl}-N-ethylacetamide
At RT 0.76 g (2 mmol) of 2-amino-4-(4-hydroxyphenyl)-6-sulfanyl-3,5-pyridinedicarbonitrile and 0.5 g (3 mmol) of N-ethylbromoacetamide are stirred in 5 ml of DMF together with 0.34 g (4 mmol) of NaHCO3 for 4 hours. After dilution with water, the mixture is extracted with ethyl acetate and the ethyl acetate phase is dried with MgSO4 and concentrated under reduced pressure. The solid residue obtained after concentration is stirred with methanol. The crystals are filtered off with suction and dried under reduced pressure.

reactant | 2-amino-4-(4-hydroxyphenyl)-6-sulfanyl-3,5-pyridinedicarbonitrile | 2 mmol, 0.76 g | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)O)C#N)S | C13H8N4OS
reactant | N-ethylbromoacetamide | 3 mmol, 0.5 g | C(C)NC(CBr)=O | C4H8BrNO
reactant | NaHCO3 | 4 mmol, 0.34 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-{[6-Amino-3,5-dicyano-4-(4-hydroxyphenyl)-2-pyridinyl]sulfanyl}-N-ethylacetamide | NC1=C(C(=C(C(=N1)SCC(=O)NCC)C#N)C1=CC=C(C=C1)O)C#N | C17H15N5O2S
